US07465795B2
4-amino-8-(2,3-dimethoxyphenyl)-N-propyl-cinnoline-3-carboxamide
Using method A, 4-amino-8-bromo-N-propyl-cinnoline-3-carboxamide (100 mg, 0.33 mmol) and 2,3-dimethoxyphenyl boronic acid (148 mg, 0.97 mmol) were reacted to afford the title compound (106 mg, 89.5% yield) as a pale-yellow solid. 1H NMR (300 MHz, CDCl3) δ 8.55 (br, 1H), 7.89 (d, J=8.1 Hz, 1H), 7.78 (dd, J=7.1 Hz, J′=1.5 Hz, 1H), 7.71 (t, J=7.6 Hz, 1H), 7.15 (t, J=7.9 Hz, 1H), 6.99 (m, 2H), 3.92 (s, 3H), 3.53 (s, 3H), 3.45 (q, J=6.7 Hz, 2H), 1.65 (m, J=7.2 Hz, 2H), 0.99 (t, J=7.4 Hz, 3H) MS APCI, m/z=367 (M+H) HPLC 1.86 min.

reactant | 4-amino-8-bromo-N-propyl-cinnoline-3-carboxamide | 0.33 mmol, 100 mg | NC1=C(N=NC2=C(C=CC=C12)Br)C(=O)NCCC | C12H13BrN4O
reactant | 2,3-dimethoxyphenyl boronic acid | 0.97 mmol, 148 mg | COC1=C(C=CC=C1OC)B(O)O | C8H11BO4
product | 4-amino-8-(2,3-dimethoxyphenyl)-N-propyl-cinnoline-3-carboxamide | 106 mg, 89.5% yield | NC1=C(N=NC2=C(C=CC=C12)C1=C(C(=CC=C1)OC)OC)C(=O)NCCC | C20H22N4O3
